US09290504B2
To a solution of (3-chloropyrazin-2-yl)methanamine.HCl (9.57 g, 21.26 mmol, 40% wt) and Z-Pro-OH (5.3 g, 21.26 mmol) in dichloromethane (250 mL) was added triethylamine (11.85 mL, 85 mmol) and the reaction mixture was cooled to 0° C. After 15 min stirring at 0° C., HATU (8.49 g, 22.33 mmol) was added. The mixture was stirred for 1 hour at 0° C. and then overnight at room temperature. The mixture was washed with 0.1 M HCl-solution, 5% NaHCO3, water and brine, dried over sodium sulfate and concentrated in vacuo. The product was purified using silica gel chromatography (heptane/ethyl acetate=1/4 v/v %) to give 5 g of (S)-benzyl 2-((3-chloropyrazin-2-yl)methylcarbamoyl)pyrrolidine-1-carboxylate (62.7%).

reactant | (3-chloropyrazin-2-yl)methanamine | ClC=1C(=NC=CN1)CN | C5H6ClN3
reactant | HCl | 21.26 mmol, 9.57 g | Cl | ClH
reactant | Z-Pro-OH | 21.26 mmol, 5.3 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | triethylamine | 85 mmol, 11.85 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 22.33 mmol, 8.49 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | (S)-benzyl 2-((3-chloropyrazin-2-yl)methylcarbamoyl)pyrrolidine-1-carboxylate | 5 g, 62.7% | ClC=1C(=NC=CN1)CNC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C18H19ClN4O3
